US08791123B2
(R)—N-tert-butyl-5-(2-(5-fluoropyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide
Prepared by the method as described in Example 1 using (R)-5-(2-(5-fluoropyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (Preparation I) and 2-methylpropan-2-amine to yield the title compound as a white solid (23 mg, 67% yield). MS (apci) m/z=383.1 (M+H).

reactant | (R)-5-(2-(5-fluoropyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | FC=1C=C(C=NC1)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2C(=O)O | C16H14FN5O2
reactant | 2-methylpropan-2-amine | CC(C)(C)N | C4H11N
product | (R)—N-tert-butyl-5-(2-(5-fluoropyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide | 23 mg, 67% yield | C(C)(C)(C)NC(=O)C=1C=NN2C1N=C(C=C2)N2[C@H](CCC2)C=2C=NC=C(C2)F | C20H23FN6O
